US07115745B2
A solution of [4-(4-aminobenzyl)phenyl]carbamic acid tert-butyl ester (1.26 g, 4.2 mmol) in PhMe (15 mL) was treated with a PhMe (10 mL) solution of CF3COCH2CO2Et (0.79 g, 4.3 mmol), before being heated under reflux for 1 h. More CF3COCH2CO2Et (0.40 g, 2.2 mmol) was added, & the mixture was heated under reflux for 1.5 h. The precipitate generated when the mixture was cooled to −15° C. was collected to give {4-[4-(4,4,4-trifluoro-3-oxobutyrylamino)benzyl]phenyl}carbamic acid tert-butyl ester (1.62 g, 90%): m/z (ES−)=435.3 [M−H]−. This compound (1.00 g, 2.3 mmol) was added portionwise with stirring to cold H2SO4 (5 mL) to generate a brown solution. This solution was heated at 90° C. for 1 h, then the cooled mixture was poured onto crushed ice. The aqueous phase was treated with solid NaOH until basic, & the mixture was extracted with Et2O (200 mL). The Et2O extracts were dried (MgSO4), concentrated to a small volume, & triturated with PE to furnish the title compound (0.66 g, 91%): δH ((CD3)2SO)=3.80 (s, 2H), 4.85 (s, 2H), 6.45 (d, 2H), 6.85 (d, 2H), 6.95 (s, 1H), 7.35 (d, 1H), 7.40–7.50 (m, 2H); m/z (ES+)=319.1

reactant | [4-(4-aminobenzyl)phenyl]carbamic acid tert-butyl ester | 4.2 mmol, 1.26 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC1=CC=C(C=C1)N)=O | C18H22N2O2
reactant | CF3COCH2CO2Et | 4.3 mmol, 0.79 g | C(F)(F)(F)C(=O)CC(=O)OCC | C6H7F3O3
reactant | CF3COCH2CO2Et | 2.2 mmol, 0.40 g | C(F)(F)(F)C(=O)CC(=O)OCC | C6H7F3O3
solvent | PhMe | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | PhMe | 10 mL | C1(=CC=CC=C1)C | C7H8
product | {4-[4-(4,4,4-trifluoro-3-oxobutyrylamino)benzyl]phenyl}carbamic acid tert-butyl ester | 1.62 g, 90% | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC1=CC=C(C=C1)NC(CC(C(F)(F)F)=O)=O)=O | C22H23F3N2O4
